US07875645B2
b) 4-Ethoxy-2,6-diethyl-benzaldehyde
To a solution of 1.10 g (5.92 mmol)) 2,6-diethyl-4-hydroxy-benzaldehyde in 15 ml N,N-dimethylformamide in a pressure tube were added 4.83 g (14.8 mmol) cesium carbonate and 1.05 ml (13.0 mmol) iodomethane. The tube was sealed and the reaction mixture was heated at 60° C. for 16 h. The reaction mixture was cooled to room temperature, diluted with ether, and washed with saturated brine. The phases were separated and the organic phase was dried over Na2SO4, filtered, and concentrated in vacuo. The residue was purified by flash chromatography (silica gel, ethyl acetate/heptane gradient) to afford 1.00 g (82%) of the title compound as a yellow oil. 1H-NMR (CDCl3): 1.25 (6H, t, 2×CH3), 1.44 (3H, t, CH3), 2.98 (4H, q, 2×CH2), 4.10 (2H, q, OCH2), 6.62 (2H, s, 2×ArH), 10.45 (1H, s, CH═O).

reactant | 2,6-diethyl-4-hydroxy-benzaldehyde | C(C)C1=C(C=O)C(=CC(=C1)O)CC | C11H14O2
reactant | cesium carbonate | 14.8 mmol, 4.83 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | iodomethane | 13.0 mmol, 1.05 ml | IC | CH3I
reactant | ether | CCOCC | C4H10O
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-Ethoxy-2,6-diethyl-benzaldehyde | 1.00 g, 82% | C(C)OC1=CC(=C(C=O)C(=C1)CC)CC | C13H18O2
